US07294635B2
7-Fluoro-6-methoxy-2-(4-nitrophenyl)-2H-isoquinolin-1-one
To a solution of 11.0 g of 7-Fluoro-6-methoxy-2H-isoquinolin-1-one (57 mmol) in DMF (108 mL) was added potassium carbonate (11.8 g), followed by 10.6 g of 1-fluoro-4-nitrobenzene (75 mmol). The reaction mixture was stirred at 120° C. for 6 hr then poured onto ice water. The slurry was extracted with ether to remove excess pFPhNO2. The precipitate was collected by filtration, washed with ether and dried in vacuo to give 12.1 g (68%) of the product asa yellow solid. RP-HPLC: 4.79 min; ES-MS (M+H)+=315.0; 1H-NMR (DMSO-d6) δ (ppm): 4.0 (3H, s), 6.76 (1,d), 7.48 (d, 1), 7.53 (d, 1), 7.83 (d,2), 7.92 (d, 1), 8.38 (d, 2).

reactant | 7-Fluoro-6-methoxy-2H-isoquinolin-1-one | 57 mmol, 11.0 g | FC1=C(C=C2C=CNC(C2=C1)=O)OC | C10H8FNO2
reactant | potassium carbonate | 11.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-fluoro-4-nitrobenzene | 75 mmol, 10.6 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
solvent | DMF | 108 mL | CN(C)C=O | C3H7NO
product | 7-Fluoro-6-methoxy-2-(4-nitrophenyl)-2H-isoquinolin-1-one | 12.1 g, 68% | FC1=C(C=C2C=CN(C(C2=C1)=O)C1=CC=C(C=C1)[N+](=O)[O-])OC | C16H11FN2O4
